US07285568B2
43 ml (272 mmol) of triethylsilane are added dropwise to a solution of 17 ml (136 mmol) of boron trifluoroetherate in 150 ml of dichloromethane cooled beforehand to 0° C. After stirring for 15 minutes, 10 g (17 mmol) of tert-butyl N-{4′-[3-(4-benzyl-2-oxooxazolidin-3-yl)-2-ethoxy-1-hydroxy-3-oxopropyl]biphenyl-3-ylmethyl}-N-methylcarbamate dissolved in 70 ml of dichloromethane are added dropwise. The reaction medium is stirred from 0° C. to room temperature for 3 hours and then heated at 40° C. for 48 hours, treated with saturated aqueous sodium carbonate solution, extracted with dichloromethane, dried over magnesium sulfate, filtered and concentrated. The residue obtained is purified by chromatography on a column of silica eluted with a dichloromethane/methanol/triethylamine mixture (95/5/0.5). 8 g of 4-benzyl-3-[2-ethoxy-3-(3′-methylaminomethylbiphenyl-4-yl)propionyl]oxazolidin-2-one are obtained in a yield of 13% to 3 g of methyl 2-ethoxy-3-hydroxy-3-(3′-methylaminomethylbiphenyl-4-yl)propionate are obtained in a yield of 51%.

reactant | triethylsilane | 272 mmol, 43 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron | 136 mmol, 17 ml | [B] | B
reactant | tert-butyl N-{4′-[3-(4-benzyl-2-oxooxazolidin-3-yl)-2-ethoxy-1-hydroxy-3-oxopropyl]biphenyl-3-ylmethyl}-N-methylcarbamate | 17 mmol, 10 g | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(C(O)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C)OCC)=O | C34H40N2O7
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 4-benzyl-3-[2-ethoxy-3-(3′-methylaminomethylbiphenyl-4-yl)propionyl]oxazolidin-2-one | 8 g, yield of 51% | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(CC1=CC=C(C=C1)C1=CC(=CC=C1)CNC)OCC)=O | C29H32N2O4
